US07291631B2
Using General Procedure A: Reaction of {4-[(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester, 3,4-dimethoxy-2-chloromethylpyridinium hydrochloride, DIPEA and KI in CH3CN gave {4-[(3,4-dimethoxy-pyridin-2-ylmethyl)-(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester as an oily residue. 1H NMR (CDCl3) δ 1.30-1.35 (m, 2H), 1.43 (s, 9H), 1.48-1.55(m, 2H), 2.14 (s, 3H), 2.27 (s, 3H), 2.95-3.00 (m, 2H), 3.76 (s, 6H), 3.91 (s, 3H), 5.14 (bs, 1H), 6.79 (d, 1H, J=6.9 Hz), 7.22 (s, 1H), 8.19 (s, 1H), 8.25 (d, 1H, J=6.9 Hz).

reactant | {4-[(3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNCC1=NC=CC=C1C)=O | C16H27N3O2
reactant | 3,4-dimethoxy-2-chloromethylpyridinium hydrochloride | Cl.COC=1C(=[NH+]C=CC1OC)CCl
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
product | {4-[(3,4-dimethoxy-pyridin-2-ylmethyl)-(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN(CC1=NC=C(C=C1C)C)CC1=NC=CC(=C1OC)OC)=O | C25H38N4O4
